US05371093
Dissolve 4-(3-chloropropoxy)benzoic acid, methyl ester (6.97 g, 30.5 mmol) in anhydrous acetone (100 mL) and add powdered sodium iodide (16.0 g, 107 mmol). Heat at reflux under an argon atmosphere for 38 hours. Dilute with ethyl ether (100 mL) and filter through Celite® filter aid. Wash the filtrate with water and brine, then dry (MgSO4). Evaporate the solvent in vacuo to give 4-(3-iodopropoxy)benzoic acid, methyl ester as a yellow oil.

reactant | 4-(3-chloropropoxy)benzoic acid, methyl ester | 30.5 mmol, 6.97 g | ClCCCOC1=CC=C(C(=O)OC)C=C1 | C11H13ClO3
reactant | sodium iodide | 107 mmol, 16.0 g | [I-].[Na+]
solvent | acetone | 100 mL | CC(=O)C | C3H6O
solvent | ethyl ether | 100 mL | C(C)OCC | C4H10O
product | 4-(3-iodopropoxy)benzoic acid, methyl ester | ICCCOC1=CC=C(C(=O)OC)C=C1 | C11H13IO3
